US07723368B2
Step 5) 4-(2-Fluoro-5-trimethylsilanylethynyl-phenyl)-butyronitrile
To a stirred solution of 4-(5-Bromo-2-fluoro-phenyl)-butyronitrile (0.37 g, 1.52 mmol) in diethyl amine (6 mL) and DMF (2 mL) was added triphenylphosine (0.08 g, 0.31 mmol), trimethylsilylacetylene (0.23 ml, 1.7 mmol), CuI (0.015 g, 0.076 mmol), and dichlorbis(triphenylphospine)palladium (0.054 g, 0.076 mmol). The reaction was heated at 85° C. for 12 h and then cooled to room temperature. The reaction was diluted with ethyl acetate (20 mL) and then poured into 0.1 N HCl (20 mL) and extracted with ethyl acetate (3×50 ml). The extracts were washed with water (10 mL) and brine (10 mL), dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography (5% to 10% ethyl acetate/petroleum ether) gave the title compound as a clear oil (0.28 g, 70%), identified by NMR and mass spectral analyses; MS (ES+): 260 (M+H).

reactant | 4-(5-Bromo-2-fluoro-phenyl)-butyronitrile | 1.52 mmol, 0.37 g | BrC=1C=CC(=C(C1)CCCC#N)F | C10H9BrFN
reactant | trimethylsilylacetylene | 1.7 mmol, 0.23 ml | C[Si](C)(C)C#C | C5H10Si
reactant | HCl | 0.1 N, 20 mL | Cl | ClH
solvent | diethyl amine | 6 mL | C(C)NCC | C4H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.076 mmol, 0.015 g | [Cu]I
catalyst | dichlorbis(triphenylphospine)palladium | 0.076 mmol, 0.054 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(2-Fluoro-5-trimethylsilanylethynyl-phenyl)-butyronitrile | 0.28 g, 70% | FC1=C(C=C(C=C1)C#C[Si](C)(C)C)CCCC#N | C15H18FNSi
